US05041455
B. 3-(4-hexylthio-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide
Methyl iodide (1 ml, 15 mmol) was added to a solution of 3-(4-hexylthio-1,2,5-thiadiazol-3-yl)pyridine (3 mmol) and the reaction mixture was stirred at room temperature for 48 h and evaporated.

reactant | Methyl iodide | 15 mmol, 1 ml | CI | CH3I
reactant | 3-(4-hexylthio-1,2,5-thiadiazol-3-yl)pyridine | 3 mmol | C(CCCCC)SC=1C(=NSN1)C=1C=NC=CC1 | C13H17N3S2
product | 3-(4-hexylthio-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide | [I-].C(CCCCC)SC=1C(=NSN1)C=1C=[N+](C=CC1)C | InChI=1S/C14H20N3S2.HI/c1-3-4-5-6-10-18-14-13(15-19-16-14)12-8-7-9-17(2)11-12;/h7-9,11H,3-6,10H2,1-2H3;1H/q+1;/p-1
